US08541588B2
5-chloro-4-[4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]-2-fluoro-N-pyrimidin-4-ylbenzenesulfonamide
A suspension of 5-chloro-N-(ethoxymethyl)-2,4-difluoro-N-pyrimidin-4-ylbenzenesulfonamide and 5-chloro-N-[(4E)-1-(ethoxymethyl)pyrimidin-4(1H)-ylidene]-2,4-difluorobenzenesulfonamide and 5-chloro-N-[(4E)-1-(ethoxymethyl)pyrimidin-4(1H)-ylidene]-2,4-difluorobenzenesulfonamide (Preparation 719) used as a mixture of three regioisomers, (64 mg, 0.18 mmol), 4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenol (Preparation 89) (37 mg, 0.18 mmol) and potassium carbonate (37 mg, 0.26 mmol) in dimethyl sulfoxide (1 mL) was stirred at room temperature for 19 hours then diluted with ethyl acetate (30 mL), washed with 1M aqueous sodium hydroxide, water, saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was taken up in trifluoroacetic acid (1 mL) and stirred for 3 hours then concentrated in vacuo. The residue was purified by reverse phase HPLC to give 29 mg (27%) of the desired product as a white solid.

reactant | 5-chloro-N-(ethoxymethyl)-2,4-difluoro-N-pyrimidin-4-ylbenzenesulfonamide | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C1=NC=NC=C1)COCC)F)F | C13H12ClF2N3O3S
reactant | 5-chloro-N-[(4E)-1-(ethoxymethyl)pyrimidin-4(1H)-ylidene]-2,4-difluorobenzenesulfonamide | ClC=1C(=CC(=C(C1)S(=O)(=O)/N=C\1/N=CN(C=C1)COCC)F)F | C13H12ClF2N3O3S
reactant | 4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenol | 0.18 mmol, 64 mg | ClC1=CC(=C(C=C1)O)C1=CC=NN1C | C10H9ClN2O
reactant | potassium carbonate | 0.26 mmol, 37 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 1 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 5-chloro-4-[4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]-2-fluoro-N-pyrimidin-4-ylbenzenesulfonamide | 29 mg, 27% | ClC=1C(=CC(=C(C1)S(=O)(=O)NC1=NC=NC=C1)F)OC1=C(C=C(C=C1)Cl)C1=CC=NN1C | C20H14Cl2FN5O3S
